US08304578B2
WO 2007/094008 application discloses a process for the preparation of O-desmethylvenlafaxine, wherein p-methoxyphenyl acetonitrile is reacted with cyclohexanone in presence of sodium hydroxide and phase transfer catalyst selected from polyethyleneglycol-400 or ALIQUATE 336™ (N-methyl-N,N-dioctyloctan-1-ammonium chloride) to give 1-cyano[(4-methoxyphenyl)methyl] cyclohexanol, which is further subjected to reduction reaction in the presence of reducing agent such as borane-dimethylsulphide complex, aluminum chloride-sodium borohydride to give 1-[2-amino-1-(4methoxyphenyl)ethyl]cyclohexanol. Subsequently, 1-[2-amino-1-(4-methoxyphenyl)ethyl]cyclohexanol is subjected to reductive aviation reaction in presence of formic acid and formaldehyde to give venlafaxine.

reactant | O-desmethylvenlafaxine | CN(C)CC(C=1C=CC(=CC1)O)C2(CCCCC2)O | C16H25NO2
reactant | p-methoxyphenyl acetonitrile | COC1=CC=C(C=C1)CC#N | C9H9NO
reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
reactant | sodium hydroxide | [OH-].[Na+]
product | 1-cyano[(4-methoxyphenyl)methyl] cyclohexanol | C(#N)C1(C(CCCC1)CC1=CC=C(C=C1)OC)O | C15H19NO2
